US07163951B2
To a room temperature, stirred solution of the above mentioned amine hydrochloride (1.03 g, 5.73 mmol) in DMF (30.0 mL) was added HOBt.H2O (0.879 g, 5.73 mmol), pyrimidine-5-carboxylic acid (0.783 g, 6.31 mmol), EDCI (1.21 g, 6.31 mmol) and lastly triethylamine (1.60 mL, 11.5 mmol). After overnight stirring (ca. 15 h) most of the solvent was removed under reduced pressure. The residue was then diluted with EtOAc and 5% aqueous sodium bicarbonate. This aqueous layer was extracted twice with EtOAc. The combined organics were washed with saturated copper (II) sulfate, half brine (twice) and then brine. The organic layer was dried over sodium sulfate, filtered and evaporated under reduced pressure to obtain a residue, which was subject to silica gel chromatography. Collection of the product containing fractions and removal of solvent yielded ethyl 1-[(pyrimidin-5-ylcarbonyl)amino]-cyclobutanecarboxylate (0.939 g) as a white crystalline solid, giving proton NMR and LC/MS data consistent with theory.

reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 5.73 mmol, 0.879 g | O | H2O
reactant | pyrimidine-5-carboxylic acid | 6.31 mmol, 0.783 g | N1=CN=CC(=C1)C(=O)O | C5H4N2O2
reactant | EDCI | 6.31 mmol, 1.21 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 11.5 mmol, 1.60 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 30.0 mL | CN(C)C=O | C3H7NO
product | ethyl 1-[(pyrimidin-5-ylcarbonyl)amino]-cyclobutanecarboxylate | 0.939 g | N1=CN=CC(=C1)C(=O)NC1(CCC1)C(=O)OCC | C12H15N3O3
